US04386073
2.38 g (9.5 mmoles) of H-Nva-Pro-NH2.HCl are suspended in 30 ml of DMFA, and 3.09 g (10 mmoles) of Kpc-OPFP and 1.33 ml (9.5 mmoles) of triethylamine are added to the stirred suspension under ice cooling. After 5 minutes of stirring further 1.33 ml (9.5 mmoles) of triethylamine are added, the mixture is stirred for additional 20 minutes, and then evaporated in vacuo. The crystalline residue is triturated with ether, filtered, and washed with cold alcohol on the filter. The resulting 3.66 g of crude product are dissolved in water, the solution is decolourized, filtered, the clear filtrate is evaporated, and the crystalline residue is triturated with 10 ml of alcohol. The mixture is allowed to stand at a cool place, and then the substance is filtered off. 2.10 g (65%) of Kpc-Nva-Pro-NH2 are obtained; m.p.: 192°-193° C., Rf5 =0.31, [α]D25 =-83.2° (c=1%, in acetic acid).

reactant | H-Nva-Pro-NH2.HCl | 9.5 mmoles, 2.38 g | N[C@@H](CCC)C(=O)N1[C@H](C(=O)N)CCC1.Cl
reactant | triethylamine | 9.5 mmoles, 1.33 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 9.5 mmoles, 1.33 ml | C(C)N(CC)CC | C6H15N
solvent | DMFA | 30 ml | CN(C)C=O | C3H7NO
product | Nva-Pro-NH2 | N[C@@H](CCC)C(=O)N1[C@H](C(=O)N)CCC1 | C10H19N3O2
